datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([S:61](/[CH:10]=[C:11](\[O-:12])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)(=[O:62])=[O:72])C=C1.C[N+:21](C)=[CH:20]Cl>>C[N:21](C)[CH:20](Cl)[CH:10]([C:11](=[O:12])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[S:61](C1=CC=CC=C1)(=[O:62])=[O:72] 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.CC1=C[C:64]2=[C:63](C=C1)[NH:62][C:61](C)=[N:10]2>>CC1=C[C:64]2=[C:63](C=C1)[NH:62][C:61](C)=[N+:10]2[CH:20](C1=CC=CC=C1)[CH:21]=[C:22]=[N-:23] 10=20;20,21=21,22;22,23=23"
"CC[O:72][C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62].CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:72][C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[C:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)=[O:62] 10,11=10,20;12=11,12"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[C:11]1([H:10])[O:12]CC[O:62]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([H:10])[C-:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[C:11]1=[O+:12]CC[O:62]1 10,11=10,20;12=11,12;20,21=21"
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C)([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]2)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[C:11](=[CH2:10])[O:12][Si:63](C)(C)C>>CC1=CC=C([S:32]([N-:21][CH:20]([CH2:10][C:11](C)=[O+:12][Si:63](C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C.FC(F)(F)[S:20][H:10] 10,11=10,20;20,21=21"
C1C[N:10]=[C:62]2[N:63](C1)CC[NH:73]2.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N+:10]2=[C:62]3[N:63](CCC2)CC[NH:73]3)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](C2=CC=CC=C2)[CH:83]=[CH:82]1.N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](C2=CC=CC=C2)[CH:83]=[CH:82]1.N#C[C:21]1=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]1[H:10] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23].FC(F)(F)[S:71](/[CH:10]=[C:11]1\[CH:12]=[CH:13][C:14](=[C:15]=[N-:16])[CH:63]=[CH:62]1)(=[O:72])=[O:82]>>FC(F)(F)[S:71]([CH:10]([C:11]1=[CH:12][CH:13]=[C:14]([C:15]#[N:16])[CH:63]=[CH:62]1)[CH:20]1[C:21](Cl)=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32]1=[O:33])(=[O:72])=[O:82] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"CCCC[P:10](CCCC)CCCC.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>CCCC[P+:10](CCCC)(CCCC)[CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21.C[Si:62](C)(C)[C:11](=[CH2:10])[O:12]C1=CC=CC=C1>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH2:10][C:11](=[O+:12]C2=CC=CC=C2)[Si:62](C)(C)C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:12](C)[C:11](=[NH:10])[N:62](C)C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[N+:12](C)=[C:11]([NH:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)[N:62](C)C 10,11=10,20;12=11,12"
"C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2.CC[C:12]1=[C:13](C)[NH:14][CH:10]=[C:11]1C>>CC[C:12]1=[C:11](C)[CH:10]([CH:20]2[C:21](C[N+]34CCN(CC3)CC4)=[C:22]([O-:23])O[C:32]3=[C:31]2[CH:36]=[CH:35][CH:34]=[CH:33]3)[NH+:14]=[C:13]1C 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
